US07491735B2
Using general procedure A with N-(5-amino-pyridin-2-yl)-acetamide (Bae, Jong Woo; et al., Tetrahedron Lett., 41, 2, 2000, 175-178) (1.00 g, 6.62 mmol) and (R)-3-(4-oxo-piperidin-1-yl)-butyronitrile (1.16 g, 6.95 mmol) and then using general procedure J afforded N-{5-[1-((R)-3-amino-1-methyl-propyl)-piperidin-4-ylamino]-pyridin-2-yl}-acetamide as a white solid (1.05 g, 52% over 2 steps).

reactant | N-(5-amino-pyridin-2-yl)-acetamide | 6.62 mmol, 1.00 g | NC=1C=CC(=NC1)NC(C)=O | C7H9N3O
reactant | (R)-3-(4-oxo-piperidin-1-yl)-butyronitrile | 6.95 mmol, 1.16 g | O=C1CCN(CC1)[C@@H](CC#N)C | C9H14N2O
product | N-{5-[1-((R)-3-amino-1-methyl-propyl)-piperidin-4-ylamino]-pyridin-2-yl}-acetamide | NCC[C@@H](C)N1CCC(CC1)NC=1C=CC(=NC1)NC(C)=O | C16H27N5O
